US05840749
A stirring suspension of 46.71 g of 2-[[4-(3-hydroxypropyl)phenoxy]methyl]benzoic acid in 500 ml of dry methylene chloride was treated dropwise over several minutes with 82.70 g of trifluoroacetic acid anhydride. The resulting solution was allowed to reflux for 4 hours and was then cooled to ambient temperature and treated with 200 ml of water. The biphasic mixture was acidified with 200 ml of 10% aqueous hydrochloric acid, transferred to a separatory funnel, and the aqueous phase was discarded. The organic phase was partitioned against two 200 ml aliquots of 5% aqueous sodium bicarbonate until the pH of the final aqueous phase was above 8. The organic phase was washed with 500 ml of water, dried (Na2SO4), and concentrated in vacuo to an oil which solidified upon standing a room temperature. A 5.5 g aliquot of this material was recrystallized from 2,2,4-trimethylpentane (i-octane) to give 3-(6,11-dihydro-11-oxo-dibenz[b,e]-oxepin-2-yl)propyl trifluoroacetate, m.p. 40.5°-41.0° C.

reactant | 2-[[4-(3-hydroxypropyl)phenoxy]methyl]benzoic acid | 46.71 g | OCCCC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C17H18O4
reactant | trifluoroacetic acid anhydride | 82.70 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 3-(6,11-dihydro-11-oxo-dibenz[b,e]-oxepin-2-yl)propyl trifluoroacetate | FC(C(=O)OCCCC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1)(F)F | C19H15F3O4
